US07667041B2
Synthesis of (E)-5-[(1R,2S)-2-hydroxyindan-1-ylamino]-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]valeric acid ethyl ester
To a methylene chloride (2.0 mL) solution of (E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-5-oxovaleric acid ethyl ester (110 mg), (1R,2S)-amino-2-indanol (63.2 mg), acetic acid (0.1 mL) and sodium triacetoxy borohydride (81.7 mg) were added one by one. After agitating reaction solution at room temperature overnight, a saturated sodium bicarbonate water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. After the obtained organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (Carrier: Chromatorex™ NH, elution solvent:ethyl acetate=1:1→heptane-ethyl acetate), and 120 mg of the title compound was obtained. The physical properties of the compound are as follows.

reactant | (E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-5-oxovaleric acid ethyl ester | 110 mg | C(C)OC(/C(/CCC=O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C19H22N2O4
reactant | (1R,2S)-amino-2-indanol | 63.2 mg | N[C@H]1[C@H](CC2=CC=CC=C12)O | C9H11NO
reactant | sodium triacetoxy borohydride | 81.7 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
product | (E)-5-[(1R,2S)-2-hydroxyindan-1-ylamino]-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]valeric acid ethyl ester | 120 mg | C(C)OC(/C(/CCCN[C@H]1[C@H](CC2=CC=CC=C12)O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C28H33N3O4
